US07915267B2
ethyl [(3-cyanophenyl)oxy]acetate
Ethyl bromoacetate (14.7 g, 88.1 mmol) was added dropwise to a suspension of potassium carbonate (12.8 g, 92.3 mmol) and 3-hydroxybenzonitrile (10.0 g, 83.9 mmol) in THF (50 mL) at room temperature, and the mixture was stirred at 50° C. for 24 hr. The mixture was extracted with ethyl acetate and saturated aqueous ammonium chloride solution, and the organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated to give the title compound as a pale-yellow powder (17.5 g, 99%).

reactant | Ethyl bromoacetate | 88.1 mmol, 14.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 92.3 mmol, 12.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxybenzonitrile | 83.9 mmol, 10.0 g | OC=1C=C(C#N)C=CC1 | C7H5NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl [(3-cyanophenyl)oxy]acetate | 17.5 g, 99% | C(#N)C=1C=C(C=CC1)OCC(=O)OCC | C11H11NO3
